Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vasotec / Sulfa (Sulfonamide Antibiotics) / Nifedipine / Heparin 
Agents / Methyldopa / Prazosin / Norvasc / Reserpine / 
Hydralazine And Derivatives
 
Attending: ___.
 
Chief Complaint:
melena
 
Major Surgical or Invasive Procedure:
Colonoscopy ___

 
History of Present Illness:
___ with a hx of AS s/p bioprosthetic replacement, CKD, HTN,
chronic low back pain who presents with black tarry stools.

Pt was in her USOH until 2 day prior to admission when she noted
new onset of black stools. 

She denies associated abd pain, n/v, CP,
lightheadedness/dizziness or exertional shortness of breath.

Regarding her bowel movements, says that her last BM was this
morning, and it was black stool with dark red blood & clots. She
reports ___ episodes in total. She denies recent etoh abuse,
NSAID, peptobismol or iron use.

ED course:
VS: Temp: 97.1 HR: 61 BP: 167/71 Resp: 16 O2 Sat: 99
Labs: 5.9>11.2 (b/l 15 in ___ <124
Cr 1.4 (b/l 1.1 ___ Na 140 K 4.2 Glucose 162
Liver labs: wnl
Coags INR 1.2 ___ ___
Meds: Given PPI. 
Course: D/w GI, agreed with plan for admission 

On arrival to the floor, the patient reports:
She currently feels well, denies any focal complaints except for
exacerbation of her chronic sciatica which she attributes to
sitting in an uncomfortable hospital bed all day. Denies current
abdominal pain, nausea, or any recent vomiting.  She also denies
any current CP or SOB.

She does report second thoughts regarding her comfort-level with
an upper endoscopy, asking if there are any suitable alternative
imaging or blood tests that be undertaken. Her main goal is to
maintain her currently functional status and avoid any possible
complications of procedures if possible.

Repeat Hgb returned 9.9 From 10 earlier in the evening.
Pt had a witnessed BM at approx 11pm with dark stool surrounded
by bright red blood (sample flushed before MD able to observe).
Case discussed briefly with GI fellow re? role for add on
colonoscopy as well. As pt unlikely to complete colonoscopy prep
at this hour, plan to proceed with EGD alone tomorrow with prep
for c scope on as needed basis 

 
Past Medical History:
Past Medical Hx:
-Rheumatic heart disease w/ aortic stenosis s/p bioprosthetic
valve
-HTN (complicated by LVH)
-CKD III
-Chronic low back pain
-Hypokalemia (on chronic potassium supplement)
-Glucose intolerance
-Osteopenia
-Vit D deficiency
-Hearing loss (R > L; uses hearing aide)
-Chronic cough (uses fluticasone nasal spray)
-Hemorrhoids (hx of banding procedure; Dr. ___ CRS)

Past Surgical Hx:
-s/p appendectomy
-s/p TAH-BSO
-s/p total hip replacement (after fall w/ hip fracture); s/p
revision in ___
-s/p cataract extraction (___)

 
Social History:
___
Family History:
Non-contributory as it relates to patients current
presentation

 
Physical Exam:
Physical Exam:
VS: 
24 HR Data (last updated ___ @ 2131)
    Temp: 98.7 (Tm 98.7), BP: 178/83, HR: 59, RR: 20, O2 sat:
97%, O2 delivery: RA, Wt: 140 lb/63.5 kg  
Gen: sitting up in NAD, speaking in full sentences
Head: atraumatic, normocephalic
Eyes: anicteric sclera, EOMI
ENT: MMM, nares patent no blood
Neck: no JVD appreciated
Cards: RR, +systolic murmur heard best over RUSB, 2+ radial
pulses b/l
Chest: CTAB, normal WOB at rest
Abd: S, NT, BS+
Skin: mildly pale, not diaphoretic
MSK: moving all 4s, no large joint swelling of elbows, wrists,
knees, or ankles
Neuro: awake, alert, conversant with clear speech, no major
facial droop
Psych: irritable but redirectable, not agitated

 
Pertinent Results:
ADMISSION LABS: 
___ 11:35AM BLOOD WBC-5.9 RBC-3.40* Hgb-11.2 Hct-33.4* 
MCV-98 MCH-32.9* MCHC-33.5 RDW-12.9 RDWSD-46.3 Plt ___
___ 11:35AM BLOOD Neuts-58.9 ___ Monos-9.2 Eos-1.0 
Baso-0.3 Im ___ AbsNeut-3.47 AbsLymp-1.79 AbsMono-0.54 
AbsEos-0.06 AbsBaso-0.02
___ 11:35AM BLOOD ___ PTT-25.8 ___
___ 11:35AM BLOOD Glucose-162* UreaN-28* Creat-1.4* Na-140 
K-4.2 Cl-102 HCO3-24 AnGap-14
___ 11:35AM BLOOD ALT-11 AST-19 AlkPhos-50 TotBili-0.4
___ 05:17AM BLOOD Albumin-4.2 Calcium-9.3 Phos-3.8 Mg-1.4*
___ 11:35AM BLOOD Lactate-2.6*

EXAMINATION: ABDOMEN US (COMPLETE STUDY) INDICATION: ___ year old 
woman with thrombocytopenia// splenomegaly or hepatomegaly? 
TECHNIQUE: Grey scale and color Doppler ultrasound images of the 
abdomen were obtained. COMPARISON: Renal ultrasound dated ___. CT abdomen and pelvis dated ___. FINDINGS: 
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the liver is smooth. There is no focal liver mass. 
The main portal vein is patent with hepatopetal flow. There is 
no ascites. BILE DUCTS: There is no intrahepatic biliary 
dilation. CHD: 4 mm GALLBLADDER: There is no evidence of stones 
or gallbladder wall thickening. PANCREAS: The imaged portion of 
the pancreas appears within normal limits, without masses or 
pancreatic ductal dilation, with portions of the pancreatic tail 
obscured by overlying bowel gas. SPLEEN: Normal echogenicity. 
Spleen length: 8.1 cm KIDNEYS: Normal cortical echogenicity and 
corticomedullary differentiation is seen bilaterally, with mild 
symmetric cortical atrophy, likely age related. Punctate 
echogenic foci in the cortex of the lower pole of the left 
kidney likely represents a cortical calcifications, and are the 
similar to prior study. There is no evidence of masses, stones, 
or hydronephrosis in the kidneys. Right kidney: 11.1 cm Left 
kidney: 11.1 cm RETROPERITONEUM: The visualized portions of 
aorta and IVC are within normal limits. IMPRESSION: 1. No 
splenomegaly. 2. Normal sonographic appearance of the liver 
parenchyma, with no focal hepatic lesions. 

RUE U/S ___: 
IMPRESSION: 
1. No evidence of deep vein thrombosis in the right upper 
extremity. 
2. There is occlusive superficial vein thrombosis of the mid and 
distal right cephalic vein. 
  

Discharge labs: 
___ 04:47AM BLOOD WBC-6.6 RBC-2.36* Hgb-7.7* Hct-23.4* 
MCV-99* MCH-32.6* MCHC-32.9 RDW-13.2 RDWSD-46.6* Plt Ct-92*
___ 04:47AM BLOOD Creat-1.0 Na-143 K-3.7 HCO3-24 AnGap-15
___ 11:35AM BLOOD ALT-11 AST-19 AlkPhos-50 TotBili-0.4
___ 04:50AM BLOOD Phos-3.6 Mg-1.8
___ 04:45AM BLOOD WBC-8.1 RBC-2.25* Hgb-7.5* Hct-22.4* 
MCV-100* MCH-33.3* MCHC-33.5 RDW-13.4 RDWSD-47.2* Plt Ct-99*
 
Brief Hospital Course:
A&P: ___ w/ AS s/p bioprosthetic valve, CKD, HTN p/w melena and
anemia secondary to lower GI bleeding.  

# Acute GI bleeding
# Acute blood loss anemia
Pt has known history of hemorrhoids and diverticulosis.  She was 
admitted to the hospitalist service and seen by GI.  She was 
started on Protonix 40mg IV BID initially since there was 
concern that there could be an upper source.  When it was 
determined that lower was more likely, this was stopped.  She 
had a colonoscopy which showed severe diverticulosis, grade 3 
non-bleeding internal hemorrhoids, and rectal prolapse.  Her 
bleeding resolved.  She initially had Hgb of 11.2 and got as low 
as 7.5.  She received Ferric gluconate 125mg IV x2 and will go 
home on oral iron.  Her Aspirin was held on admission but 
restarted on discharge.  

#Thrombocytopenia - new problem, unclear etiology.  This could 
be
consumptive since she has bleeding and clots.  She was never on 
heparin.  We ordered an abdominal U/S to see if she has hemato 
or splenomegaly, but this was normal.  It may have ___ caused by 
the PPI.  She can see her PCP next week to discuss what if any 
additional steps may be necessary.

#Occlusive superficial vein thrombosis of the mid and distal 
right cephalic vein with overlying cellulitis - this was from an 
area where an IV was placed.  She started Keflex ___ PO q6 for 
a total of 7 days ___ - ___.  She was advised to use heat 
packs to help with absorption as well as Tylenol if she had any 
pain.  
  
___ on CKD III: Cr 1.4 from baseline perhaps closer to 1.1.  
This was secondary to dehydration and now resolved. 

#AS s/p bioprosthetic valve: Restarted Aspirin 325mg PO daily on 
discharge. 

#HTN: On arrival to the hospital, her blood pressures were 
elevated, but she was also having hemorrhagic anemia.  ___ 
admitting MD fractionated her home diltiazem, uptitrated to 90 
q6 (typically 240) with careful holding parameters and held HCTZ 
25mg, losartan 100mg, and atenolol 150mg. Her systolic blood 
pressures on this were consistently 100s-120s.  She was 
discharged on her home Diltiazem and HCTZ, but Atenolol and 
Losartan were held.  She was advised to take daily blood 
pressure readings to discuss with her PCP as to whether to 
restart either of these medications.  

#GOC: ___ admitting MD, "Pt stated she was previously DNR based
on prior conversations with family. This evening she also
expressed her sentiment that she would also not want to be
intubated, even if
there was a chance for meaningful recovery. There seems to be
some lingering confusion amongst family (esp with pts dtr/HCP)
that stems from end of life discussions with pts husband that
intubation commits a patient to permanent respiratory support
without the possibility for extubation despite multiple
conversations with them this evening. The patients main goal is
to maintain her current independent life-style (pt lives alone 
in
a 2 story house and is independent for ADLs/AIDLs)."
Pt currently DNR/DNI

#Chronic back pain: Tylenol as needed 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Atenolol 150 mg PO DAILY 
3. Diltiazem Extended-Release 240 mg PO DAILY 
4. Senna 8.6 mg PO DAILY 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. Lovastatin 20 mg oral DAILY 
7. diclofenac sodium 1 % topical ASDIR 
8. Pantoprazole (Granules for ___ ___ 40 mg PO QHS 
9. Potassium Chloride 20 mEq PO DAILY 
10. Aspirin 325 mg PO DAILY 
11. Hydrochlorothiazide 25 mg PO DAILY 
12. Amoxicillin 500 mg PO ASDIR 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 tablet(s) by mouth four times a day Disp 
#*27 Tablet Refills:*0 
2.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate [iron] 325 mg (65 mg iron) 1 tablet(s) by 
mouth daily Disp #*60 Tablet Refills:*0 
3.  Amoxicillin 500 mg PO ASDIR  
4.  Aspirin 325 mg PO DAILY  
5.  diclofenac sodium 1 % topical ASDIR  
6.  Diltiazem Extended-Release 240 mg PO DAILY  
7.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
8.  Hydrochlorothiazide 25 mg PO DAILY  
9.  Lovastatin 20 mg oral DAILY  
10.  Pantoprazole (Granules for ___ ___ 40 mg PO QHS  
11.  Potassium Chloride 20 mEq PO DAILY 
Hold for K >  
12.  Senna 8.6 mg PO DAILY  
13. HELD- Atenolol 150 mg PO DAILY  This medication was held. Do 
not restart Atenolol until you speak with your primary doctor
14. HELD- Losartan Potassium 100 mg PO DAILY  This medication 
was held. Do not restart Losartan Potassium until you speak with 
your primary doctor 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lower GI bleeding
Thrombocytopenia 
occlusive superficial vein thrombosis of the mid and distal 
right 
cephalic vein

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with anemia from GI bleeding.  
You had a colonoscopy which showed that you had diverticulosis 
(small outpouchings of the colon which can lead to bleeding) as 
well as internal hemorrhoids.  Your bleeding stopped, and you 
are able to go home with iron pills.  Of note, some of your 
blood pressure medicines were held, and you can restart them as 
needed after a discussion with your PCP. 

Please take your blood pressure once or twice a day and write it 
down on one piece of paper.  Please bring this paper to your PCP 
to discuss if you should restart these medicines.  

You also unfortunately developed a skin infection from the area 
where your IV was and a superficial blood clot there too.  
Please use heat packs and Tylenol if the area is uncomfortable, 
and finish your antibiotics.  If you develop difficulty 
breathing or pain with breathing, you should seek urgent medical 
attention.  

Of note, you also had low platelets, which are the part of your 
blood that affects clotting.  This may be caused by your body 
using them because of the bleeding or because of one of the 
medicines we used out of concern for stomach bleeding 
(Protonix).  Your PCP ___ need to recheck this and advise you 
if any additional steps are needed.  
We wish you the best in your recovery,
Your ___ team 
 
Followup Instructions:
___